*** For Ques: 2 NMOS
*** Vgs = Vcm + sin(wt),  Vds = 0V.,  sweeping vcm

** M1 --> 1. long channel
** M2 --> 2. short channel


.include TSMC180.lib
.model nch_tt nmos (level = 8)
.param f= 10e6
*.param f = 10e9
Vgs	g	a	dc 0  SIN(0 {1/(2*3.14*f)} f 0 0 0 )
Vcm	a	0	-2V
Ml	0	g	0	0	nch_tt   W=25u  L = 10u  
*Ms	0	g	0	0	nch_tt	 W = 450n L=180n 

.control
let v = -2
let v_vec = vector(20)
let c_vec = vector(20)
let loop = 0
while v <1.8  
	alter @Vcm v

 	tran 1n 1u 
	*tran .1p 10n

	meas tran i_max FIND i(Vcm) AT = 1u
	*meas tran i_max FIND i(Vcm) AT = 10n

        print v
	plot i(Vcm)         xlabel "Current at Vcm =  $&v"

	let v_vec[loop] = v
	let c_vec[loop] = -i_max
	let v = v + 0.2
	let loop  = loop + 1
	
end
plot c_vec vs v_vec
wrdata 2.dat c_vec v_vec
.endc
.end
