

.include "TSMC180.lib"
.model nch_tt nmos



Vgs1 n1 0 DC 2
Vgs2 T n1  DC 0 AC 1 SINE(0 0.003183 50)
M1  0 G 0 0 nch_tt W=25u L=10u
Vtest T G DC 0

.control
let vgs1 = 2
while vgs1 >= -2
	alter @Vgs1 vgs1
 	tran 10u 100m 
	meas tran c1 FIND i(Vtest) AT = 100m
        print vgs1
	plot i(Vtest)         xlabel "Current waveform at VCM $&vgs1"
	let vgs1 = vgs1 - 0.25
	
	
end
.endc
.end



