
.include "TSMC180.lib"
.model nch_tt nmos

*circuit model
Vgs G 0 DC 0
M1  D G 0 0 nch_tt W=0.54u L=0.18u
R1  suppv D 100k
Vdd suppv 0 2.5



.control
run 
let r1 = 100k
while r1 > 1k
alter @R1 r1

dc Vgs 0 2.5 0.01
print r1
print minimum(deriv(V(D)))
meas tran vm FIND V(D) WHEN V(D) = V(G)
plot V(D) vs V(G)	  xlabel "At R = $&r1"
plot deriv(V(D)) vs V(G)  xlabel "At R = $&r1"
let r1 = r1 - 10k
end


.endc
.end



