*Question 5c

.include "TSMC180.lib"
.model nch_tt nmos

*circuit model
Vgs G 0 PULSE(0 1 0 0 0 2u 4u)
M1  D G 0 0 nch_tt W=0.54u L=0.18u
R1  suppv D 75k
Vdd suppv 0 2.5
CL  D     0 3p

.tran 10n 4u
.control
run 
plot V(G) 
plot V(D)
.endc
.end



